US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(3-methylbenzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (123 mg, 0.233 mmol) in DCM (3 mL) at room temperature was treated with TFA (1 mL), and the reaction was stirred for 1 hour. The reaction mixture was then concentrated to dryness. The resulting residue was dissolved in minimal DCM and added to a stirring solution of 1M HCl in ether. The solid formed was filtered, washed with ether and dried to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methylbenzamide hydrochloride (0.102 g, 87.4% yield). 1H NMR (400 MHz, D2O) δ 8.02 (s, 1H), 7.64 (s, 1H), 7.62-7.52 (m, 1H), 7.42-7.38 (m, 3H), 3.49-3.42 (m, 1H), 3.27-3.18 (m, 2H), 3.17-3.06 (m, 2H), 2.29 (s, 3H), 1.81-1.71 (m, 1H), 1.68-1.57 (m, 1H), 1.49-1.26 (m, 2H); LCMS (APCI+) m/z 428, 430 (M+H)+, Retention time=2.68 minutes (Method 2).

reactant | (R)-tert-Butyl 1-(5-bromo-3-(3-methylbenzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.233 mmol, 123 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CC(=CC=C2)C)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C25H30BrN5O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methylbenzamide hydrochloride | 0.102 g, 87.4% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(C2=CC(=CC=C2)C)=O | InChI=1S/C20H22BrN5O.ClH/c1-12-4-2-5-13(8-12)20(27)25-16-10-24-19-17(16)18(15(21)9-23-19)26-7-3-6-14(22)11-26;/h2,4-5,8-10,14H,3,6-7,11,22H2,1H3,(H,23,24)(H,25,27);1H/t14-;/m1./s1
